US07151105B2
Step 6: 3-(2-Chloro-5-ethoxy-pyridin-4-yl)-1-cyclopentyl-propan-1-one
A mixture of 2-chloro-5-ethoxy-4-iodo-pyridine (1.5 g, 5.3 mmol), 1-cyclopentyl-2-propen-1-ol (0.83 g, 6.61 mmol), sodium acetate (0.54 g, 6.6 mmol), palladium (II) acetate (24 mg, 0.11 mmol) in DMAC (10 mL) was heated to 90° C. under N2 for 16 hours. The reaction mixture was partitioned between 1N HCl and EtOAc. The organic layers were washed with saturated NaHCO3, brine, dried over MgSO4 and concentrated. Purification by silica gel chromatography (0% to 60% EtOAc in hexanes) gave the desired product (1.2 g, 58%). 1H NMR (300 MHz, CDCl3): δ 1.44 (t, J=7.0 Hz, 3 H), 1.55–1.87 (m, 8 H), 2.75 (m, 2 H), 2.86 (m, 3 H), 4.11 (q, J=7.0 Hz, 2 H), 7.09 (s, 1 H), 7.89 (s, 1 H).

reactant | 2-chloro-5-ethoxy-4-iodo-pyridine | 5.3 mmol, 1.5 g | ClC1=NC=C(C(=C1)I)OCC | C7H7ClINO
reactant | 1-cyclopentyl-2-propen-1-ol | 6.61 mmol, 0.83 g | C1(CCCC1)C(C=C)O | C8H14O
reactant | sodium acetate | 6.6 mmol, 0.54 g | C(C)(=O)[O-].[Na+]
solvent | DMAC | 10 mL | CC(=O)N(C)C | C4H9NO
catalyst | palladium (II) acetate | 0.11 mmol, 24 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(2-Chloro-5-ethoxy-pyridin-4-yl)-1-cyclopentyl-propan-1-one | 1.2 g, 58% | ClC1=NC=C(C(=C1)CCC(=O)C1CCCC1)OCC | C15H20ClNO2
